US04029661
Preparation of 5,5-difluoro-5,6-dihydro-6-(2,2,2-trifluoroethoxy) uracil
5-fluorouracil (1.00 g, 0.0077 moles) was suspended in anhydrous 2,2,2-trifluoroethanol (20 ml) and treated with an equal volume mixture of gaseous fluorine and nitrogen at 68°-70° C. for 103 minutes at which time gaseous fluorine was detected leaving the reaction vessel, representing a consumption of 0.0182 moles of fluorine. The mole ratio of fluorine to 5-fluorouracil was 2.36. The solvent was removed under reduced pressure at room temperature (25° C.) to give a white solid which was dried at 50° C. at reduced pressure. The product was identified as 5,5-difluoro-5,6-dihydro-6-(2,2,2-trifluoroethoxy) uracil (1.67g) representing a yield of 79.5% with a melting point of 142°-146° C.; NMR confirmed the structure.

reactant | 5-fluorouracil | 0.0077 moles, 1.00 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | fluorine | FF | F2
reactant | fluorine | 0.0182 moles | FF | F2
reactant | 2,2,2-trifluoroethanol | 20 ml | FC(CO)(F)F | C2H3F3O
product | 5,5-difluoro-5,6-dihydro-6-(2,2,2-trifluoroethoxy) uracil | yield of 79.5% | FC1(C(NC(NC1OCC(F)(F)F)=O)=O)F | C6H5F5N2O3
